US09102614B2
Preparation of methyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (142):
Methyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate (298 mg, 0.71 mmol) was dissolved in t-BuOAc (18.0 mL, 134 mmol) and 7 drops of perchloric acid were added. The reaction was monitored by HPLC and TLC for progress. After 4.5 hours, the mixture was added to icy saturated NaHCO3 and stirred for 10-15 minutes. This mixture was extracted with EtOAc, extracts dried with sodium sulfate and concentrated in vacuo. Purification on silica gel using EtOAc in hexanes gave desired product as well as some starting material. 1H-NMR: (400 MHz, CDCl3): δ 8.39 (d, J=8.8 Hz, 1H); 7.57-7.48 (m, 3H); 7.45-7.42 (m, 1H); 7.35-7.31 (m, 1H); 7.28-7.18 (m, 2H); 5.20 (s, 1H); 3.70 (s, 3H); 2.72 (s, 3H); 0.99 (s, 9H).

reactant | Methyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-hydroxyacetate | 0.71 mmol, 298 mg | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)OC)O)C | C20H16BrClO3
reactant | t-BuOAc | 134 mmol, 18.0 mL | C(C)(C)(C)OC(=O)C | C6H12O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | perchloric acid | 7 drops | Cl(=O)(=O)(=O)O | ClHO4
product | methyl 2-(4-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | BrC1=C(C(=C(C2=CC=CC=C12)C1=CC=C(C=C1)Cl)C(C(=O)OC)OC(C)(C)C)C | C24H24BrClO3
